US04767768
(E,E)-4-Ethyl-2,4-hexadienoic acid (5 g) was dissolved in tetrahydrofuran (300 ml) and triethylamine (5 ml) was added to the solution. The mixture was stirred at room temperature for 30 minutes and then ethyl chloroformate (3.4 ml) was added dropwise thereto at -20° C. with stirring. The resulting mixture was stirred at the same temperature for 60 minutes. n-Butylamine (3.6 ml) was added to the reaction mixture at -20° C. The resulting mixture was stirred at the same temperature for 60 minutes. The reaction mixture was concentrated and the concentrate was diluted with water, and then extracted with two portions of ethyl acetate (100 ml×2). The combined extracts were washed with successively an aqueous sodium carbonate solution and brine, dried over magnesium sulfate and then evaporated to dryness to given an oil (6.5 g) which was subjected to column chromatography on silicagel, eluting with chloroform containing 2% methanol, to give (E,E)-N-n-butyl-4-ethyl-2,4-hexadienamide (5.8 g).

reactant | (E,E)-4-Ethyl-2,4-hexadienoic acid | 5 g | C(C)/C(/C=C/C(=O)O)=C\C | C8H12O2
reactant | triethylamine | 5 ml | C(C)N(CC)CC | C6H15N
reactant | ethyl chloroformate | 3.4 ml | ClC(=O)OCC | C3H5ClO2
reactant | n-Butylamine | 3.6 ml | C(CCC)N | C4H11N
solvent | tetrahydrofuran | 300 ml | O1CCCC1 | C4H8O
product | (E,E)-N-n-butyl-4-ethyl-2,4-hexadienamide | 5.8 g | C(CCC)NC(\C=C\C(=C\C)\CC)=O | C12H21NO
